US09382197B2
To a vial charged with 1-adamantylcarboxylic acid (0.031 g, 0.17 mmol) was added HATU (64.6 mg, 0.17 mmol), triethylamine (0.14 mL, 1.02 mmol) and DMF (1 mL). The solution was shaken at rt for 1 h then ethyl 4-(1-amino-2-methylpropyl)benzoate (0.038 g, 0.17 mmol) in DMF (1 mL) was added. The resulting mixture was shaken at rt for 16 h. Solvent was then evaporated. To the residue was added DCE (3 mL) and sat. NaHCO3 solution (1.5 mL). After separation, the aqueous layer was extracted with DCE twice. Combined organic layers were concentrated to give crude ethyl 4-{1-[(adamantan-1-ylcarbonyl)amino]-2-methylpropyl}benzoate as a solid.

reactant | 1-adamantylcarboxylic acid | 0.17 mmol, 0.031 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | HATU | 0.17 mmol, 64.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.02 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-(1-amino-2-methylpropyl)benzoate | 0.17 mmol, 0.038 g | NC(C(C)C)C1=CC=C(C(=O)OCC)C=C1 | C13H19NO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | ethyl 4-{1-[(adamantan-1-ylcarbonyl)amino]-2-methylpropyl}benzoate | C12(CC3CC(CC(C1)C3)C2)C(=O)NC(C(C)C)C2=CC=C(C(=O)OCC)C=C2 | C24H33NO3
